US05074911
(a) 3-Bromoundecan-2-one
A solution of undecan-2-one (170 g, 1.0M) in CCl4 (500 ml) was stirred at 20°-25° C. and bromine (160 g) was added over 15 minutes. The solution decolourised rapidly and stirring was continued for 2 hours at 20°-25° C. when water (100 ml) was added. NaHCO3 (92 g) was added portion-wise and the mixture filtered. The filtrate was dried over anhydrous MgSO4 and distilled. The fraction which boiled at 142°-146° C./20 mmHg (116 g) was collected. NMR(CDCl3)=0.7-1.6 (m, 17, C8H17), 2.3 (s, 3, CH3), 4.0-4.4 (t, 1, CH).

reactant | undecan-2-one | 1.0M, 170 g | CC(CCCCCCCCC)=O | C11H22O
reactant | bromine | 160 g | BrBr | Br2
reactant | water | 100 ml | O | H2O
reactant | NaHCO3 | 92 g | C(=O)(O)[O-].[Na+]
solvent | CCl4 | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromoundecan-2-one | BrC(C(C)=O)CCCCCCCC | C11H21BrO
